US07977340B2
A stirred solution of 1-[5-Benzyloxy-7-(4-methyl-pyridin-2-yl)-benzothiazol-2-yl]-3-ethyl-urea (100 mg, 0.239 mmol) in anhydrous dichloromethane (2 ml) was treated with methanesulfonic acid (0.25 ml) and kept at ambient temperature for 2 h. The dichloromethane was then evaporated off and the residue treated with water (3 ml). The resultant mixture was extracted with ethyl acetate (3×20 ml) and the aqueous portion basified with sodium hydrogen carbonate. The resultant mixture was extracted with ethyl acetate (3×30 ml), dried (MgSO4) and the solvent removed in vacuo to give the crude 1-Ethyl-3-[5-hydroxy-7-(4-methyl-pyridin-2-yl)-benzothiazol-2-yl]-urea (38 mg, 46%) as an off-white solid which was used without further purification.

reactant | 1-[5-Benzyloxy-7-(4-methyl-pyridin-2-yl)-benzothiazol-2-yl]-3-ethyl-urea | 0.239 mmol, 100 mg | C(C1=CC=CC=C1)OC=1C=C(C2=C(N=C(S2)NC(=O)NCC)C1)C1=NC=CC(=C1)C | C23H22N4O2S
reactant | methanesulfonic acid | 0.25 ml | CS(=O)(=O)O | CH4O3S
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1-Ethyl-3-[5-hydroxy-7-(4-methyl-pyridin-2-yl)-benzothiazol-2-yl]-urea | 38 mg, 46% | C(C)NC(=O)NC=1SC2=C(N1)C=C(C=C2C2=NC=CC(=C2)C)O | C16H16N4O2S
